US08609675B2
Step C—Synthesis of 4-(7-Chloro-pyrazolo[1,5-a]pyrimidin-5-yl)-cyclohexanecarboxylic acid t-butyl ester (Int-7c)
4-(7-Hydroxy-pyrazolo[1,5-a]pyrimidin-5-yl)-cyclohexanecarboxylic acid t-butyl ester (Int-7b, 10.6 g), N,N-dimethylaniline (15.0 ml) and POCl3 (120 mL) were mixed and stirred at room temperature for 18 hours. The solution was reduced in vacuo and cooled to 0° C. in ice bath. The reaction was then quenched with sat. NaHCO3(aq) and extracted with DCM (100 mL×3). The combined organics were dried with Na2SO4 and the solvent was removed in vacuo. The resulting oil was purified via silica gel column on 20% to 100% ethyl acetate in hexanes gradient to yield the title compound (2.5 g, 32% over three steps). LC-MS: 336 [M+H].

reactant | 4-(7-Hydroxy-pyrazolo[1,5-a]pyrimidin-5-yl)-cyclohexanecarboxylic acid t-butyl ester | 10.6 g | C(C)(C)(C)OC(=O)C1CCC(CC1)C1=NC=2N(C(=C1)O)N=CC2 | C17H23N3O3
reactant | N,N-dimethylaniline | 15.0 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 120 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(7-Chloro-pyrazolo[1,5-a]pyrimidin-5-yl)-cyclohexanecarboxylic acid t-butyl ester | 2.5 g, 32% | C(C)(C)(C)OC(=O)C1CCC(CC1)C1=NC=2N(C(=C1)Cl)N=CC2 | C17H22ClN3O2
